US07994164B2
(E)-11-Bromomethylene-3-fluoro-6,11-dihydro-dibenzo[b,e]oxepine
To a suspension of (3-fluoro-6H-dibenzo[b,e]oxepin-11-ylidene)-acetic acid ethyl ester (0.23 mol, 69.5 g) in isopropanol (725 mL) add a solution of lithium hydroxide (0.53 mol, 12.0 g) in water (125 mL) and warm to 70° C. for 4 h. Allow the mixture to cool to 40° C. and then treat with glacial acetic acid (0.44 mol, 25 mL). After stirring for 15 min, add N-bromosuccinimide (0.25 mol, 44 g). Bubbling ensues, the temperature rises to 45° C., and solids form after a few min. Stir the mixture at 40-45° C. for one hour and cool to room temperature. Add sodium bisulfite (4.5 g) in water (150 mL), saturated aqueous sodium bicarbonate (150 mL), and water (450 mL). Filter the resulting suspension and rinse with cold 1:1 isopropanol/water (300 mL). Dry the solid at 60° C./20 mm Hg overnight to obtain the title compound (65.8 g, 93%). 1H NMR (400 MHz, DMSO-d6) δ 4.9-5.4 (br d, 2H), 6.63 (dd, 1H), 6.77 (dt, 1H), 7.13 (s, 1H), 7.32-7.46 (m, 4H), 7.52 (dd, 1H).

reactant | (3-fluoro-6H-dibenzo[b,e]oxepin-11-ylidene)-acetic acid ethyl ester | 0.23 mol, 69.5 g | C(C)OC(C=C1C2=C(OCC3=C1C=CC=C3)C=C(C=C2)F)=O | C18H15FO3
reactant | lithium hydroxide | 0.53 mol, 12.0 g | [OH-].[Li+]
reactant | acetic acid | 0.44 mol, 25 mL | C(C)(=O)O | C2H4O2
reactant | N-bromosuccinimide | 0.25 mol, 44 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | isopropanol | 725 mL | C(C)(C)O | C3H8O
solvent | water | 125 mL | O | H2O
product | (E)-11-Bromomethylene-3-fluoro-6,11-dihydro-dibenzo[b,e]oxepine | 65.8 g, 93% | Br\C=C/1\C2=C(OCC3=C1C=CC=C3)C=C(C=C2)F | C15H10BrFO
